US07947689B2
(6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)-methanone
In close analogy to the procedure described in Example 1, 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 4,5,6,7-tetrahydro-thieno[3,2-c]pyridine to provide the title compound in moderate yield.

reactant | 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | 4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | S1C=CC=2CNCCC21 | C7H9NS
product | (6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)-methanone | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2CC1=C(CC2)SC=C1 | C14H11ClN4OS
